US06369047B2
Synthesis of 17β-Hydroxy-7α-methyl-11-methyleneestr-4-en-3-one (7α-methyl-11-methylene-19-nortestosterone)
3-Methoxy-7α-methyl-11-methyleneestr-1,3,5(10)-trien-17-one (A-11) was subjected to sodium borohydride reduction of the 17-ketone function, Birch reduction with lithium/NH3(1), and acid hydrolysis and rearrangement to the title compound. Experimental details are as follows:

reactant | 3-Methoxy-7α-methyl-11-methyleneestr-1,3,5(10)-trien-17-one | COC1=CC=2C[C@H]([C@H]3[C@@H]4CCC([C@@]4(C)CC([C@@H]3C2C=C1)=C)=O)C | C21H26O2
reactant | sodium borohydride | [BH4-].[Na+]
product | 17β-Hydroxy-7α-methyl-11-methyleneestr-4-en-3-one | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC3=CC(CC[C@@H]3[C@H]1C(C2)=C)=O)C | C20H28O2
